data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_350444_0,[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])([C:6]([C:2]([C:5]([H:21])([H:22])[H:23])([N:8]([H:13])[H:14])[H:10])=[O:9])[N:7]([H:11])[H:12]>>[C:1]([C@:2]([C:5]([H:21])([H:22])[H:23])([N:8]([H:13])[H:14])[H:10])([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])[C:6]([N:7]([H:11])[H:12])=[O:9],71.08006249999207
MR_14814_1,[C:1]([N:3](/[C:4](=[N:7]\[H:8])[H:9])/[C:5](=[C:6](\[C:2]([H:15])([H:16])[H:17])[H:11])[H:10])([H:12])([H:13])[H:14]>>[C:1](/[N:3]=[C:5](\[C@@:6]([C:2]([H:15])([H:16])[H:17])(/[C:4](=[N:7]\[H:8])[H:9])[H:11])[H:10])([H:12])([H:13])[H:14],59.70474250003392
MR_362521_1,[C:1]([N:6]1[C:3]2([N:4]([H:9])[H:10])[N:2]([H:8])[N:5]1[N:7]2[H:11])([H:12])([H:13])[H:14]>>[C:1](/[N:6]=[N:5]/[N:7](/[C:3](=[N:2]/[H:8])[N:4]([H:9])[H:10])[H:11])([H:12])([H:13])[H:14],15.637927500003885
MR_584293_0,[C:1]([C:2]([C:3](=[O:6])[H:9])([H:10])[H:11])([N:4]=[O:5])([H:7])[H:8]>>[C:1]([C:2]([N:4]=[O:5])([H:10])[H:11])([C:3](=[O:6])[H:9])([H:7])[H:8],68.83737750001856
MR_255901_0,[C:1]([N:3]([C:4]([N:6]([H:11])[H:12])=[O:9])/[C:5]([C:2]([H:16])([H:17])[H:18])=[N:8]/[O:7][H:10])([H:13])([H:14])[H:15]>>[C:1](/[N:3]=[C:5](\[C:2]([H:16])([H:17])[H:18])[N:8]([C:4]([N:6]([H:11])[H:12])=[O:9])[O:7][H:10])([H:13])([H:14])[H:15],43.48512250000056
MR_74084_2,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]1([C:5](=[C:6]([H:17])[H:18])[H:13])/[C:4](=[N:8]\[H:10])[N:7]1[H:9])([H:11])[H:12]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:4](/[C:3]([C:5](=[C:6]([H:17])[H:18])[H:13])=[N:7]\[H:9])=[N:8]/[H:10])([H:11])[H:12],59.86977500000961
MR_242544_0,[C:1](/[C:2]([N:4]([H:12])[H:13])=[C:6](/[N:5]([H:14])[H:15])[H:16])([O:7][H:9])=[N:8]/[N:3]([H:10])[H:11]>>[C:1]1([O:7][H:9])=[C:2]([N:4]([H:12])[H:13])[C:6]([N:5]([H:14])[H:15])([H:16])[N:8]1[N:3]([H:10])[H:11],55.36495249996904
MR_614826_1,[C:1]1([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:2]([H:11])([H:12])/[C:7](=[N:8]\[H:10])[C:3]([H:13])([H:14])[N:6]1[H:9]>>[C:1]([C:2](/[C:7]([C:3]([N:6]([H:9])[H:18])([H:13])[H:14])=[N:8]\[H:10])([H:11])[H:12])([C:4]([H:15])([H:16])[H:17])=[C:5]([H:19])[H:20],68.43201249997193
MR_583430_2,[C@@:1]([C:2]([H:11])([H:12])[H:13])(/[C:4]([C:3]([H:14])([H:15])[H:16])=[N:7]\[H:10])([O:5][O:6][H:8])[H:9]>>[C@@:1]1([C:2]([H:11])([H:12])[H:13])([H:9])[C@@:4]([C:3]([H:14])([H:15])[H:16])([O:5][O:6][H:8])[N:7]1[H:10],71.36055499999728
MR_319132_1,[N:1]([O:3][H:5])([N:4]=[C:2]([H:7])[H:8])[H:6]>>[N:1]([N:4][C:2]([O:3][H:5])([H:7])[H:8])[H:6],58.60222499999964
MR_203912_0,[C:1]([C:2]([N:3]([H:7])[H:8])=[O:6])([N:4][O:5])([H:9])[H:10]>>[C:1](=[C:2]([N:3]([H:7])[H:8])[O:6][N:4][O:5])([H:9])[H:10],30.90186499998893
MR_661106_1,[C:1](/[C:3]([C:2]([H:12])([H:13])[H:14])=[N:6]\[N:4]([H:8])[H:9])([N:5]=[O:7])([H:10])[H:11]>>[C:1](=[C:3]([C:2]([H:12])([H:13])[H:14])[N:6]([N:4]([H:8])[H:9])[N:5]=[O:7])([H:10])[H:11],27.73298999999966
MR_183763_2,[C:1](\[C:3]([H:16])([H:17])[H:18])([C:6]([C:2]([C:5]([H:22])([H:23])[H:24])([H:14])[H:15])([N:8]([H:12])[H:13])[N:9]([C:4]([H:19])([H:20])[H:21])[H:11])=[N:7]\[H:10]>>[C:1]([C:2]([C:5]([H:22])([H:23])[H:24])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])(/[C:6]([N:8]([H:12])[H:13])=[N:9]/[C:4]([H:19])([H:20])[H:21])[N:7]([H:10])[H:11],53.84201000003316
MR_269862_1,[C:1]1([H:11])([H:12])[C:7]([C:6]([N:5]([H:9])[H:10])([H:13])[H:19])([H:14])[N:8]1[C:4]([C:2]([H:15])([H:16])[H:20])=[C:3]([H:17])[H:18]>>[C:1](/[C:7](=[C:6](\[N:5]([H:9])[H:10])[H:13])[H:14])([N:8]=[C:4]([C:2]([H:15])([H:16])[H:20])[C:3]([H:17])([H:18])[H:19])([H:11])[H:12],41.98916250003222
MR_221714_2,[C:1]([C:2]([H:17])([H:18])[H:19])([C:3]([H:15])([H:16])[H:20])([N:4]([H:9])[H:10])[C:7]1([H:14])[C:5]2([H:12])[C:6]1([H:13])[N:8]2[H:11]>>[C:1]([C:2]([H:17])([H:18])[H:19])([C:3]([H:15])([H:16])[H:20])([N:4]([H:9])[H:10])/[C:7](=[C:5]([C:6](=[N:8]\[H:11])\[H:13])/[H:12])[H:14],26.98187250000558
MR_80177_0,[C:1]([C:3]([H:13])([H:14])[H:15])([N:4]([C:2]([H:10])([H:11])[H:12])[H:7])([C:5](=[O:6])[H:9])[H:8]>>[C:1]1([C:3]([H:13])([H:14])[H:15])([H:8])[C:5]([N:4]([C:2]([H:10])([H:11])[H:12])[H:7])([H:9])[O:6]1,69.59037750000789
MR_502194_2,[C:1](\[N:3]([H:10])[H:11])(=[C:4]([C:6](=[C:5](\[N:8]=[C:2]([H:12])[H:13])[H:15])/[H:16])\[H:14])[O:7][H:9]>>[C:1]1([N:3]([H:10])[H:11])([O:7][H:9])[C:2]([H:12])([H:13])[N:8]=[C:5]([H:15])[C:6]([H:16])=[C:4]1[H:14],44.68176499997554
MR_208514_1,[C:1]([C:3]([H:16])([H:17])[H:18])([N:4]([O:6][N:5]([H:11])[H:12])[H:10])([O:7][C:2]([H:13])([H:14])[H:15])[O:8][H:9]>>[C:1]([C:3]([H:16])([H:17])[H:18])([N:4]([O:7][C:2]([H:13])([H:14])[H:15])[H:10])([O:6][N:5]([H:11])[H:12])[O:8][H:9],54.81024250001411
MR_156349_0,[C@:1]1([C:4]([H:12])([H:13])[H:14])([C:9]([C:8]([H:24])([H:25])[H:26])=[O:10])[C:2]([C:5]([H:15])([H:16])[H:17])([C:6]([H:18])([H:19])[H:20])[C@:3]1([C:7]([H:21])([H:22])[H:23])[H:11]>>[C:1](=[C:2]([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([C@@:3]([C:7]([H:21])([H:22])[H:23])([C:9]([C:8]([H:24])([H:25])[H:26])=[O:10])[H:11])[C:4]([H:12])([H:13])[H:14],69.04633499999036
